US07247646B2
A. 1-(5-Bromo-2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone
A solution of bromine (3.6 mL, 75.6 mmol) in acetic acid (50 mL) was added dropwise to a stirring solution of 1-(2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone (20 g, 77.4 mmol) in acetic acid (500 mL), and the reaction mixture was allowed to stir for 8 h. The acetic acid was then removed under reduced pressure, and the resulting solid was recrystallized from methanol/water to provide 8.9 g of crude product. Further purification using reverse-phase preparatory HPLC (30–100% acetonitrile+0.1% TFA in H2O+0.1% TFA, over 18 min, then at 100% acetonitrile for 15 min) provided fractions that were subsequently neutralized with sodium bicarbonate and extracted using ethyl acetate. The organic fractions were combined, dried over magnesium sulfate and filtered, and the solvent was removed under reduced pressure to afford the title compound (4.8 g, 18%). MS (ESI) m/z 337.3 (M+1)+, 339.3 (M+1+2)+.

reactant | bromine | 75.6 mmol, 3.6 mL | BrBr | Br2
reactant | 1-(2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone | 77.4 mmol, 20 g | OC1=C(C=CC(=C1)OC)C(CC1=CC=C(C=C1)O)=O | C15H14O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 1-(5-Bromo-2-hydroxy-4-methoxy-phenyl)-2-(4-hydroxy-phenyl)-ethanone | 4.8 g, 18% | BrC=1C(=CC(=C(C1)C(CC1=CC=C(C=C1)O)=O)O)OC | C15H13BrO4
